US04435419
3-(p-Chlorobenzyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane
A 16.60 g. portion of 3-(p-chlorobenzoyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane is dissolved in 160 ml. of benzene and 55.5 g. of Vitride® is added dropwise. The mixture is refluxed for 2 hours, cooled and quenched slowly with 10 N sodium hydroxide. Water is added, the organic layer is separated and washed 3 times with water and then dried over magnesium sulfate. Removal of the solvent yields an off-white solid, m.p. 88°-92° C.

reactant | 3-(p-chlorobenzoyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(C(=O)N2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H15Cl2NO
reactant | Vitride | COCCO[AlH2-]OCCOC.[Na+]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3-(p-Chlorobenzyl)-1-(p-chlorophenyl)-3-azabicyclo[3.1.0]hexane | ClC1=CC=C(CN2CC3(CC3C2)C2=CC=C(C=C2)Cl)C=C1 | C18H17Cl2N
